US07087750B2
1-(1-Naphthylsulfonyl)-4-(1-piperazinyl)-1H-indole Hydrochloride (Scheme 1)
The title compound was prepared according 4-(4-boc-piperazinyl)-indole and naphthylsulfonylchloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.03 (br, 1 H), 8.63 (d, J=8 Hz, 1 H), 8.43 (d, J=8 Hz, 1 H), 8.34 (d, J=8 Hz, 1 H), 8.15–8.05 (m, 2 H), 7.80–7.65 (m, 3 H), 7.41 (d, J=8 Hz, 1 H), 7.18 (t, J=8 Hz, 1 H), 6.93 (d, J=5Hz, 1 H), 6.74 (d, J=8Hz, 1 H), 3.30–3.20 (m, 8 H); MS (ESI+) for m/z 392 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | naphthylsulfonylchloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 1-(1-Naphthylsulfonyl)-4-(1-piperazinyl)-1H-indole Hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C22H21N3O2S.ClH/c26-28(27,22-10-3-6-17-5-1-2-7-18(17)22)25-14-11-19-20(8-4-9-21(19)25)24-15-12-23-13-16-24;/h1-11,14,23H,12-13,15-16H2;1H
